US07919506B2
Preparation 19: (2-bromo-5-(trifluoromethyl)benzyloxy)triisopropylsilane
To a solution of (2-bromo-5-(trifluoromethyl)phenyl)methanol (10 g; 39 mmol) in N,N-dimethylformamide (100 mL) was added imidazole (6.82 g; 100.1 mmol) and triisopropylsilyl chloride (9.6 mL; 55.2 mmol) under N2. The reaction was stirred at room temperature for 48 hours. The reaction was diluted with ethyl acetate and washed with water (4×) and brine. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by 80 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 5-10% ethyl acetate in heptane) to yield the title compound (16.47 g, 100%) as a colorless oil. MS (GC) Calc: 410.0, Found: 391 (M−F). 1H NMR (400 MHz, CDCl3) δ ppm 7.94 (s, 1H), 7.62 (d, J=8.30 Hz, 1H), 7.39 (d, J=8.30 Hz, 1H), 4.84 (s, 2H), 1.25 (m, 3H), 1.12(d, 18H).

reactant | (2-bromo-5-(trifluoromethyl)phenyl)methanol | 39 mmol, 10 g | BrC1=C(C=C(C=C1)C(F)(F)F)CO | C8H6BrF3O
reactant | imidazole | 100.1 mmol, 6.82 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 55.2 mmol, 9.6 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-bromo-5-(trifluoromethyl)benzyloxy)triisopropylsilane | 16.47 g, 100% | BrC1=C(CO[Si](C(C)C)(C(C)C)C(C)C)C=C(C=C1)C(F)(F)F | C17H26BrF3OSi
